US04004016
A solution of 5.5 g of 2-aminobenzimidazole and 11.0 g of 2-(o-bromophenyl)ethyl bromide in 250 ml of xylene is heated in a nitrogen atmosphere under reflux for 18 hours. The reaction mixture is cooled and the crystals that separate are filtered and dried. This product weighs 3.7 g and is recrystallized from acetonitrile to give 3.4 g of 1,3-dihydro-1,3-bis[2-(o-bromophenyl)ethyl]-2H-benzimidazol-2-imine hydrobromide, m.p. 248°-249°.

reactant | 2-aminobenzimidazole | 5.5 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 2-(o-bromophenyl)ethyl bromide | 11.0 g | BrC1=C(C=CC=C1)CCBr | C8H8Br2
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3-dihydro-1,3-bis[2-(o-bromophenyl)ethyl]-2H-benzimidazol-2-imine hydrobromide | 3.4 g | Br.BrC1=C(C=CC=C1)CCN1C(N(C2=C1C=CC=C2)CCC2=C(C=CC=C2)Br)=N | InChI=1S/C23H21Br2N3.BrH/c24-19-9-3-1-7-17(19)13-15-27-21-11-5-6-12-22(21)28(23(27)26)16-14-18-8-2-4-10-20(18)25;/h1-12,26H,13-16H2;1H
